US06953806B2
2.90 g (11.0 mmol) trans-(4-hydroxymethyl-cyclohexylmethyl)-carbamic acid tert-butyl ester [U.S. (2000) U.S. Pat. No. 6,022,969 A] dissolved in 15 ml of tetrahydrofuran were added slowly to a suspension of 0.92 g of lithium aluminium hydride in 10 ml of tetrahydrofuran. The reaction mixture was then stirred at 50° C. for 4 hours, cooled to 0° C., treated with 2 g of ice, stirred at room temperature for 30 min., diluted with ethyl acetate, dried over sodium sulfate, filtered and evaporated. Thus, crude trans-(4-methylaminomethyl-cyclohexyl)-methanol was obtained [MS: 158 (MH+)], which was dissolved in 20 ml of methanol, cooled to −10° C. and treated at once with 2.77 g di-tert-butyl-dicarbonate. Then, the reaction mixture was stirred at −10° C. for 30 min. and at room temperature for 1 hour. Subsequently, 5 ml of water and 5 ml of triethylamine were added and the reaction mixture evaporated under reduced pressure. It was then poured into 100 ml of an ice/water mixture and extracted 3 times with 100 ml of dichloromethane. The combined dichloromethane phases were dried over magnesium sulfate and evaporated under reduced pressure. The residue formed was chromatographed on silica gel with a 1:1 v/v mixture of dichloromethane and ethylacetate as the eluent giving 2.5 g (82%) trans-(4-hydroxymethyl-cyclohexylmethyl)-methyl-carbamic acid tert-butyl ester as colorless viscous oil, MS: 257 (M+).

reactant | trans-(4-hydroxymethyl-cyclohexylmethyl)-carbamic acid tert-butyl ester | 11.0 mmol, 2.90 g | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)CO)=O | C13H25NO3
reactant | lithium aluminium hydride | 0.92 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | di-tert-butyl-dicarbonate | 2.77 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 20 ml | CO | CH4O
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | trans-(4-hydroxymethyl-cyclohexylmethyl)-methyl-carbamic acid tert-butyl ester | 2.5 g, 82% | C(C)(C)(C)OC(N(C)C[C@@H]1CC[C@H](CC1)CO)=O | C14H27NO3
